US08304433B2
4-(2-Methanesulfonyloxymethylphenyl)piperidine-1-carboxylic acid t-butyl ester (27.0 g, 60.6 mmol, 1.0 eq.) was dissolved in MeCN (540 mL) and added to K2CO3 (25 g, 180 mmol, 3.0 eq.) and 2,4,6-trifluorophenol (13.5 g, 90.9 mmol, 1.5 eq.). The mixture was vigorously stirred at 50° C. for 6 hours, removed from the heat, and stirred overnight. The mixture was cooled at room temperature, and diluted with EtOAc (700 mL) and water (700 mL). The phases were separated, and the organic layer was washed twice with 1.0 M NaOH in water (2×400 mL) and saturated aqueous NaCl (1×400 mL), then dried over Na2SO4 and the solvent removed to yield crude 4-[2-(2,4,6-trifluorophenoxymethyl)-phenyl]piperidine-1-carboxylic acid t-butyl ester (25.0 g). The crude product was combined with smaller scale runs for a total of 30 g, and purified by chromatography (0-10% EtOAc in hexanes) to yield 4-[2-(2,4,6-trifluorophenoxymethyl)phenyl]piperidine-1-carboxylic acid t-butyl ester (22.0 g).

reactant | 4-(2-Methanesulfonyloxymethylphenyl)piperidine-1-carboxylic acid t-butyl ester | 60.6 mmol, 27.0 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C=CC=C1)COS(=O)(=O)C | C18H27NO5S
reactant | K2CO3 | 180 mmol, 25 g, 3.0 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,4,6-trifluorophenol | 90.9 mmol, 13.5 g, 1.5 eq. | FC1=C(C(=CC(=C1)F)F)O | C6H3F3O
solvent | MeCN | 540 mL | CC#N | C2H3N
product | 4-[2-(2,4,6-trifluorophenoxymethyl)phenyl]piperidine-1-carboxylic acid t-butyl ester | 22.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C=CC=C1)COC1=C(C=C(C=C1F)F)F | C23H26F3NO3
